US09290517B2
2-[(3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-hydroxy-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-yl]acetaldehyde
Ruthenium(III) chloride hydrate (3.7 mg, 0.016 mmol) and sodium periodate (121.7 mg, 0.569 mmol) were added to a stirred solution of (3R,3aR,6R,6aS)-6-allyl-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-ol (122.5 mg, 0.250 mmol) in acetonitrile (2.14 ml) and water (0.36 ml). The reaction mixture was stirred at room temperature for 3 h, then partitioned between EtOAc (75 ml) and saturated aqueous sodium thiosulfate (40 ml). The aqueous layer was extracted with EtOAc (2×50 ml). The organic layers were combined, washed with brine (1×30 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to give a colorless residue. This material was dissolved in EtOAc and loaded onto three 500 micron 20 cm×20 cm silica gel plates, which were developed using 10% MeOH/DCM. The silica containing the product band was collected and eluted with 10% MeOH/DCM (80 ml). The solvent was evaporated under reduced pressure and the resulting residue was lyophilized from ethanol and benzene to give the title compound as a white solid. LC-MS: calculated for C26H22ClN3O5 491.12 observed m/e: 492.18 (M+H)+ (Rt 1.18/2 min).

reactant | sodium periodate | 0.569 mmol, 121.7 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | (3R,3aR,6R,6aS)-6-allyl-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-ol | 0.250 mmol, 122.5 mg | C(C=C)[C@]1(CO[C@H]2[C@@H]1OC[C@H]2OC=2NC=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C1=CC=CC=C1)N2)O | C27H24ClN3O4
reactant | MeOH DCM | CO.C(Cl)Cl
solvent | acetonitrile | 2.14 ml | C(C)#N | C2H3N
solvent | water | 0.36 ml | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Ruthenium(III) chloride hydrate | 0.016 mmol, 3.7 mg | O.[Ru](Cl)(Cl)Cl
product | 2-[(3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-hydroxy-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-yl]acetaldehyde | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)[C@@](CO1)(O)CC=O | C26H22ClN3O5
